US08193359B2
7-Iodofuro[3,2-c]pyridine-2-carboxylic acid
A solution of KH2PO4 (81 mg, 0.59 mmol) in H2O (3 mL) was added to a solution of 7-iodofuro[3,2-c]pyridine-2-carbaldehyde (578 mg, 2.12 mmol) in DMSO (16 mL). The stirred mixture was treated carefully with a solution of NaClO2 (335 mg, 2.96 mmol) in H2O (5 mL). After 16 h, more KH2PO4 (81 mg, 0.59 mmol) in H2O (3 mL) and NaClO2 (335 mg, 2.96 mmol) in H2O (5 mL) were added, then stirring was continued for a further 48 h. The precipitated solid was collected, washed with DMSO, H2O, i-PrOH, and EtOAc, and vacuum-dried to furnish the title compound: m/z (ES+)=289.9 [M+H]+.

reactant | KH2PO4 | 0.59 mmol, 81 mg | OP(=O)(O)[O-].[K+]
reactant | 7-iodofuro[3,2-c]pyridine-2-carbaldehyde | 2.12 mmol, 578 mg | IC=1C2=C(C=NC1)C=C(O2)C=O | C8H4INO2
reactant | NaClO2 | 2.96 mmol, 335 mg | [O-]Cl=O.[Na+]
reactant | KH2PO4 | 0.59 mmol, 81 mg | OP(=O)(O)[O-].[K+]
reactant | NaClO2 | 2.96 mmol, 335 mg | [O-]Cl=O.[Na+]
solvent | H2O | 3 mL | O | H2O
solvent | DMSO | 16 mL | CS(=O)C | C2H6OS
solvent | H2O | 5 mL | O | H2O
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 5 mL | O | H2O
product | 7-Iodofuro[3,2-c]pyridine-2-carboxylic acid | IC=1C2=C(C=NC1)C=C(O2)C(=O)O | C8H4INO3
